US04981924
Following the procedure of Example 1, dibutyltin oxide was reacted with 3.2 g (0.2 mole) 3-(4-hydroxyphenyl)propionic acid to yield 56 g of dibutyltin bis-[3-(4-hydroxyphenyl)propionate], a white crystalline material melting at 48°-50° C.

reactant | dibutyltin oxide | C(CCC)[Sn](CCCC)=O
reactant | 3-(4-hydroxyphenyl)propionic acid | 0.2 mole, 3.2 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
product | dibutyltin bis-[3-(4-hydroxyphenyl)propionate] | 56 g | OC1=CC=C(C=C1)CCC(=O)[O-].OC1=CC=C(C=C1)CCC(=O)[O-].C(CCC)[Sn+2]CCCC | InChI=1S/2C9H10O3.2C4H9.Sn/c2*10-8-4-1-7(2-5-8)3-6-9(11)12;2*1-3-4-2;/h2*1-2,4-5,10H,3,6H2,(H,11,12);2*1,3-4H2,2H3;/q;;;;+2/p-2
